US04269834
To a solution of 42.4 g (0.2 mol) of benzyl-2-pyridylketoxime (E. Niemers and R. Hiltmann, Synth. 1976, 593), 2 g of sodium hydroxide and 0.2 g of mercuric chloride in 300 ml of propionic acid and 100 ml of propionic acid anhydride, were added 52.4 g (0.8 mol) of zinc powder with stirring in portions of 0.5 g in the course of one hour. The solution became warm and turned purple. Stirring was continued at 80° C. until the purple colour turned to yellow (ca. 3 hours). The reaction mixture was cooled and filtered. The residue was thoroughly washed with water and then with chloroform and the chloroform solution obtained was successively washed with water, aqueous sodium bicarbonate and again with water. The solvent was distilled off and the residue was sublimed. The oily product was crystallised from a mixture of ethanol and petroleum ether (boiling range 60°-80° C.). N-[2-phenyl-1-(2-pyridyl)ethyl]propionamide was obtained as a white solid, melting point 91°-93° C.

reactant | benzyl-2-pyridylketoxime | 0.2 mol, 42.4 g | C(C1=CC=CC=C1)C(=NO)C1=NC=CC=C1 | C13H12N2O
reactant | sodium hydroxide | 2 g | [OH-].[Na+]
reactant | propionic acid | 300 ml | C(CC)(=O)O | C3H6O2
solvent | propionic acid anhydride | 100 ml | C(CC)(=O)OC(CC)=O | C6H10O3
catalyst | zinc | 0.8 mol, 52.4 g | [Zn] | Zn
product | N-[2-phenyl-1-(2-pyridyl)ethyl]propionamide | C1(=CC=CC=C1)CC(C1=NC=CC=C1)NC(CC)=O | C16H18N2O
